US03989841
Methyl 7-Hydroxyfluorene-2-acetic acid
A solution of 83mg. of 7-hydroxyfluorene-2-acetic acid in 2ml. of methanol and 5ml. of ether is treated with an excess of diazomethane in ether. After 20 min. at room temperature, the mixtrue is treated with several drops of acetic acid and evaporated. The residue is plate chromatographed on silica gel using chloroform as the developing solvent. The major band (UV) is eluted with ethyl acetate, evaporated, and the residue crystallized from acetone-isopropyl ether to give 36mg. of the title compound, mp 135.5°-136.5°. The analytical sample is prepared by recrystallization from acetone-isopropyl ether, mp 136°-137°; λKBr 5.85μ; τCDCl TMS 6.31 (S, 2--CH2CO2CH3).

reactant | 7-hydroxyfluorene-2-acetic acid | OC1=CC=C2C=3C=CC(=CC3CC2=C1)CC(=O)O | C15H12O3
reactant | methanol | CO | CH4O
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
catalyst | acetic acid | several drops | C(C)(=O)O | C2H4O2
product | Methyl 7-Hydroxyfluorene-2-acetic acid | CC1=C(C=CC=2C3=CC=C(C=C3CC12)O)CC(=O)O | C16H14O3
